US07968573B2
A mixture of 0.60 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one, 0.29 g of isopropylhydrazine hydrochloride, 0.27 g of triethylamine and 6 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The combined organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.35 g of 3-bromo-N-[4-chloro-2-(N′-isopropylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide of the formula:

reactant | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one | 0.60 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl)C2=NC=CC=C2Cl | C17H9BrCl2N4O2
reactant | isopropylhydrazine hydrochloride | 0.29 g | Cl.C(C)(C)NN
reactant | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 3-bromo-N-[4-chloro-2-(N′-isopropylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | 0.35 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C)Cl)C(=O)NNC(C)C)C1=NC=CC=C1Cl | C20H19BrCl2N6O2
